US06362177B1
To a mixture of 1-(3-amino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (27 mg, 0.049 mmol), (piperidinomethyl)polystyrene (2.7 mmol/g, 60 mg, 0.15 mmol) and dichloromethane (2 mL) was added acetic anhydride (0.12 mmol) in dichloromethane (0.12 mL). The reaction mixture was stirred at room temperature for 3 h. The mixture was loaded onto Varian™ SCX column, and washed with CH3OH. Product was eluted off using 2 N NH3 in CH3OH and concentrated to give 1-(3-acetylamino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (30 mg, quant.): ESI/MS m/e 590.4 (M++H, C29H37F2N5O6).

reactant | 1-(3-amino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.049 mmol, 27 mg | NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1O | C27H35F2N5O5
reactant | (piperidinomethyl)polystyrene | 0.15 mmol, 60 mg | C1CCNCC1 | C5H11N
reactant | acetic anhydride | 0.12 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 0.12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(3-acetylamino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 30 mg | C(C)(=O)NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1O | C29H37F2N5O6
